Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year old woman without significant PMHX who
was brought to the hospital with an ambulance after a fall at 
home.

Briefly, said she was cleaning her apartment and was on chair
when she fell off the chair on the ground. She hit her head, but
did not loose consciousness. She denies any prodrome, such
lightheadedness, diaphoresis, focal weakness, numbness, vision
changes. She was able to call ___ and EMS brought her to ___
ED, where she was found to have a laceration of her left hand 
and
a CTH with small right frontal hyperdensity. ___ neurology was
consulted.

Pt states that she lives with her son but is independent off all
ADL's, Son does finances. She walks without assistive device.

She denies any recent fevers, illness or unintentional weight
loss. She denies any focal weakness, numbness, difficulty with
speech or vision. 

 
Past Medical History:
HTN, HLD, dementia, GERD, R frontal cavernoma

 
Social History:
Retired, used to work in ___. Lives with son,
___ of all her ADL's, son does finances, walks without
any assistive device. no smoking etoh or illicit drugs

- Modified Rankin Scale:
[] 0: No symptoms
[x] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead

 
Family History:
Unknown

 
Physical Exam:
ADMISSION EXAMINATION
=====================
Vitals: T: 98.1 P: 68 R: 16  BP:163/85  SaO2:100%RA
- General: Awake, cooperative, NAD.
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented to person, "hospital" and
___. Able to relate history without difficulty. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension.  Pt was able to name
both high and low frequency objects. Speech was not dysarthric.
Able to follow both midline and appendicular commands. There was
no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: Mild right lower facial assymmetry
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE  IP Quad Ham TA Gastroc 
L  5    ___   ___   5    5  5     5   
R  5    ___   ___   5    5  5     5     

* due to injury on left hand

-DTRs:  
       [Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      0       
     R  2+    2+     2+      0        
Plantar response flexor bilaterally. 

-Sensory: No deficits to light touch, pinprick throughout. No
extinction to DSS.

-Coordination: No intention tremor. No dysmetria on FNF
bilaterally.

-Gait: Deferred

DISCHARGE EXAMINATION
=====================
- General: Awake, cooperative, NAD.
- HEENT: 4cm bump on the L occiput. No bleeding. 
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented to person, "hospital" and 
___. Mostly attentive, able to name ___ backward without 
difficulty. Language is fluent with intact comprehension.  
Speech was not dysarthric. Able to follow both midline and 
appendicular commands. There was no evidence of apraxia or 
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. L hemianopsia.
III, IV, VI: EOMI with a few beats of fatigable nystagmus on 
horizontal end-gaze.
V: Facial sensation intact to light touch.
VII: Mild right lower facial asymmetry
VIII: Hearing intact to conversation bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: No pronator drift bilaterally. No adventitious 
movements, such as tremor, noted. 
  Delt Bic Tri WrE FFl FE  IP Quad Ham TA Gastroc 
L  5    ___   *  *   5   5    5  5     5   
R  5    ___   ___   5    5  5     5     
*Deferred due to L hand laceration.

-DTRs: 
       [Bic] [Tri] [___]
     L  2+    2+     2+           
     R  2+    2+     2+          

-Sensory: No deficits to light touch throughout. No extinction 
to DSS.

-Coordination: No intention tremor. No dysmetria on FNF 
bilaterally. 

-Gait: Wide-based but steady. Postural instability on 
retropulsion & R lateral pull test.
 
Pertinent Results:
___ 05:10AM BLOOD WBC-8.4 RBC-3.88* Hgb-10.8* Hct-33.2* 
MCV-86 MCH-27.8 MCHC-32.5 RDW-13.1 RDWSD-40.6 Plt ___
___ 05:10AM BLOOD ___ PTT-27.2 ___
___ 05:10AM BLOOD Glucose-88 UreaN-16 Creat-0.7 Na-142 
K-4.0 Cl-102 HCO3-22 AnGap-18
___ 05:10AM BLOOD Calcium-9.1 Phos-4.2 Mg-2.1 Cholest-152
___ 05:10AM BLOOD %HbA1c-5.3 eAG-105
___ 05:10AM BLOOD Triglyc-86 HDL-61 CHOL/HD-2.5 LDLcalc-74
___ 03:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 03:00PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 03:00PM URINE RBC-4* WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1 TransE-<1
___ 3:00 pm URINE
   URINE CULTURE (Pending): 

___ 4:35 ___ CT HEAD W/O CONTRAST 
An 8 mm focus of hyperattenuation in the right frontal lobe 
periventricular white matter, adjacent to the frontal horn of 
the right lateral ventricle, could reflect a small 
intraparenchymal hemorrhage, cavernoma, or other mass lesion.  
Further assessment with brain MRI with contrast can be 
considered. 

___ 4:___-SPINE W/O CONTRAST 
1. Widening of the intervertebral disc space anteriorly at C4-C5 
is associated with anterior disc bulge, but no prevertebral soft 
tissue swelling to specifically suggest ligamentous injury. 
Recommend correlation with symptoms. If concern for ligamentous 
injury, recommend cervical spine MRI. 
2. Multiple levels of minimal anterolisthesis may be chronic in 
the setting of overall moderate cervical spine osteoarthritis. 
Multilevel spinal canal narrowing is worst and mild-to-moderate 
at C4-C5. 

___ 11:01 ___ MRI & MRA BRAIN W&W/O CONTRAST 
1. Severely motion degraded MP RAGE sequences, which are 
essentially 
nondiagnostic. 
2. No evidence for acute infarction. 
3. 8 mm right frontal lobe white matter lesion demonstrating 
extensive 
blooming on gradient echo sequences, most compatible with a 
small cavernoma. 
4. Curvilinear areas of susceptibility artifact with increased 
FLAIR signal abnormality and ex vacuo dilatation of the within 
the right occipital lobe and horn.  These findings could 
represent a chronic infarction with encephalomalacia and old 
hemorrhagic products.  Apparent subtle enhancement in this 
region may be secondary to crowding of vessels as opposed to a 
small enhancing lesion.  Recommend follow-up contrast enhanced 
MRI in 3 months for further evaluation. 
5. Global parenchymal volume loss, evidence of chronic small 
vessel ischemic disease, and paranasal sinus disease as above. 
6. Grossly patent intracranial vasculature without high-grade 
stenosis, 
occlusion, or definite aneurysm. 
  
RECOMMENDATION(S):  Curvilinear areas of susceptibility artifact 
with 
associated curvilinear enhancement seen within the right 
occipital lobe is 
likely secondary to crowding of vessels from the 
encephalomalacia sequelae of prior chronic infarct as opposed to 
an enhancing lesion.  No evidence for acute superimposed 
hemorrhage given the lack of associated hyperdensity on recent 
CT examination. Recommend follow-up contrast enhanced MRI in 3 
months for further evaluation. 
 
Brief Hospital Course:
___ woman with history notable for HTN, HLD, dementia, 
GERD, and R frontal cavernoma admitted after a fall at home. 
Initial CT head concerning for right frontal IPH vs. cavernoma, 
though on review ___ imaging reports, note was made of a 
stable right frontal cavernoma since ___. Follow-up MRI 
redemonstrated right frontal cavernoma without additional 
infarct, hemorrhage, or demyelinating lesion. Physical therapy 
evaluation recommended discharge home with home ___. No 
medication changes made; may resume outpatient follow-up with 
Neurology at ___.

TRANSITIONAL ISSUES
1. Consider weaning meclizine in setting of recurrent falls.
2. Follow-up MRI with contrast in 3 months to reassess subtle 
enhancement within the right occipital lobe and horn likely 
reflecting crowding rather than a small 
enhancing lesion.

 
Medications on Admission:
1. Omeprazole 20 mg PO DAILY 
2. Donepezil 10 mg PO QHS 
3. Simvastatin 80 mg PO QPM 
4. Meclizine 12.5 mg PO Q8H:PRN dizziness 

 
Discharge Medications:
1.  Donepezil 10 mg PO QHS  
2.  Meclizine 12.5 mg PO Q8H:PRN dizziness  
3.  Omeprazole 20 mg PO DAILY  
4.  Simvastatin 80 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Mechanical fall
Stable right frontal cavernoma

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ after 
presenting with a fall. Your initial head CT was concerning for 
bleeding in your head, but a follow-up MRI demonstrated that it 
was most likely your known prior cavernoma. There was no 
evidence of a new stroke or bleed. You were evaluated by 
physical therapy, who recommended discharge home with home ___ 
services.

It was a pleasure taking care of you at ___.

Sincerely,
Neurology at ___
 
Followup Instructions:
___